US07947690B2
A mixture of 4-chloro-2,5-difluorobenzenecarboxamidine, ethyl 4-oxotetrahydrothiophene-3-carboxylate, NaOMe, and MeOH was stirred at ambient temperature for 19 hours and then at 60° C. for 5 hours to yield 2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidin-4(1H)-one.

reactant | 4-chloro-2,5-difluorobenzenecarboxamidine | ClC1=CC(=C(C=C1F)C(=N)N)F | C7H5ClF2N2
reactant | ethyl 4-oxotetrahydrothiophene-3-carboxylate | O=C1C(CSC1)C(=O)OCC | C7H10O3S
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidin-4(1H)-one | ClC1=CC(=C(C=C1F)C1=NC(C2=C(N1)CSC2)=O)F | C12H7ClF2N2OS
